US05455260
N-trityl-2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine (9.1 g; 17.8 mmol) is suspended in EtOH and treated with HCl/EtOH until acidic by pH paper. The reaction mixture is heated at 80° C. for 3 hours keeping the reaction acidic. The reaction mixture is then cooled and the solid is filtered and washed with EtOH to give 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride (m.p. 232°-233° C.) as a white solid which is used directly in Step F.

reactant | N-trityl-2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine | 17.8 mmol, 9.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCOCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C35H30N2O2
reactant | HCl EtOH | Cl.CCO
solvent | EtOH | CCO | C2H6O
product | 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCN)C=C2 | InChI=1S/C16H16N2O2.ClH/c17-9-10-19-11-12-5-7-13(8-6-12)16-18-14-3-1-2-4-15(14)20-16;/h1-8H,9-11,17H2;1H
